US06323235B1
Methyl (7-methoxy-2-(2-propenyl)benzofuran-3-yl)acetate
THF (10 ml) was added to zinc powder (5.92 g) and then a catalytic amount of iodine was added. While vigorously stirring the resulting solution, a small amount of a solution of 7-methoxy-3-oxo-2-(2-propenyl)-2,3-dihydrobenzofuran (6.16 g) and methyl bromoacetate (8.9 ml) in THF (90 ml) was added at room temperature. After confirming generation of heat, the reaction solution was cooled to 0° C. and the remainder of the solution was added dropwise for 15 minutes. The reaction solution was stirred at 0° C. for 3 hours, cooled to room temperature and was stirred for another 2.5 hours. Acetic acid (5.5 ml) was added to the reaction solution and the resultant was filtered through Celite. After removing the solvent under reduced pressure, the residue was dissolved in toluene (100 ml) and p-toluenesulfonic acid (536 mg) was added thereto, followed by stirring the resulting mixture at room temperature for 2 hours. The reaction solution was poured into water (150 ml) and the resultant was extracted twice with ethyl acetate (50 ml). After combining the organic layers, the resultant was washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, and dried over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using a silica gel to obtain the desired compound (5.23 g, yield: 67%).

reactant | iodine | II | I2
reactant | 7-methoxy-3-oxo-2-(2-propenyl)-2,3-dihydrobenzofuran | 6.16 g | COC1=CC=CC=2C(C(OC21)CC=C)=O | C12H12O3
reactant | methyl bromoacetate | 8.9 ml | BrCC(=O)OC | C3H5BrO2
reactant | Acetic acid | 5.5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
catalyst | zinc | 5.92 g | [Zn] | Zn
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Methyl (7-methoxy-2-(2-propenyl)benzofuran-3-yl)acetate | 5.23 g, yield: 67% | COC1=CC=CC=2C(=C(OC21)CC=C)CC(=O)OC | C15H16O4
